US05279764
0.1 mol of 2-fluoro-4-butyloxybenzoic acid (prepared from 3-fluoro-4-cyanophenol by alkylation with butyl bromide/potassium carbonate in dimethylformamide and subsequent hydrolysis of the nitrile via the imido ester), 0.01 mol of dimethylaminopyridine and 0.1 mol of 2,3-difluoro-4-octylphenol are initially introduced into 150 ml of methylene chloride, a solution of 0.1 mol of dicyclohexylcarbodiimide in 30 ml of methylene chloride is added dropwise at 10°, while stirring, and the mixture is then subsequently stirred at room temperature for 15 hours. The mixture is filtered over silica gel and the solvent is evaporated to give 2,3-difluoro-4-octylphenyl 2-fluoro-4-butyloxybenzoate as the residue.

reactant | 2-fluoro-4-butyloxybenzoic acid | 0.1 mol | FC1=C(C(=O)O)C=CC(=C1)OCCCC | C11H13FO3
reactant | 3-fluoro-4-cyanophenol | FC=1C=C(C=CC1C#N)O | C7H4FNO
reactant | butyl bromide potassium carbonate | C(CCC)Br.C([O-])([O-])=O.[K+].[K+]
reactant | dimethylaminopyridine | 0.01 mol | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 2,3-difluoro-4-octylphenol | 0.1 mol | FC1=C(C=CC(=C1F)CCCCCCCC)O | C14H20F2O
reactant | dicyclohexylcarbodiimide | 0.1 mol | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | 2,3-difluoro-4-octylphenyl 2-fluoro-4-butyloxybenzoate | FC1=C(C(=O)OC2=C(C(=C(C=C2)CCCCCCCC)F)F)C=CC(=C1)OCCCC | C25H31F3O3
